US06974836B2
tert-Butyl glycine hydrochloride (6.6 g, 50 mmol) was suspended in methylene chloride and meta-trifluoromethyl benzoic acid (9.5 g, 50 mmol) was added, followed by N,N-diisopropylethylamine (17.5 mL, 100 mmol), EDC (10.2 g, 53 mmol), and DMAP (300 mg, 2.5 mmol). The reaction was stirred for 12 hrs at RT and partitioned between EtOAc and 1 N HCl. The organic phase was washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. The material was purified via flash chromatography to give tert-Butyl (3-trifluoromethylbenzoyl)glycine as a clear and colorless oil (12 g), which was dissolved in methylene chloride (40 mL), cooled to 0° C., and treated with trifluoroacetic acid (20 mL). The reaction was stirred for 3.5 hrs at RT and concentrated in vacuo. The material was redissolved in methylene chloride and concentrated again; this procedure was repeated three more times to give the desired carboxylic acid 1.2 (Z=—C(O)—, R2=3-trifluoromethylphenyl, all other R=H; 8.9 g). 1H-NMR (300 MHz): δ 8.03 (s, 1H), 7.94 (d, 1H, J=7.7 Hz), 7.66 (d, 1H, J=7.7 Hz), 7.48 (t, 1H, J=7.9 Hz), 4.08 (s, 2H).

reactant | tert-Butyl glycine hydrochloride | 50 mmol, 6.6 g | Cl.C(C)(C)(C)NCC(=O)O
reactant | meta-trifluoromethyl benzoic acid | 50 mmol, 9.5 g | FC(C=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O2
reactant | N,N-diisopropylethylamine | 100 mmol, 17.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | EDC | 53 mmol, 10.2 g
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2.5 mmol, 300 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl (3-trifluoromethylbenzoyl)glycine | C(C)(C)(C)N(CC(=O)O)C(C1=CC(=CC=C1)C(F)(F)F)=O | C14H16F3NO3
